US06437139B1
Synthesis of 4-Chloro-2-hydroxymethyl-3,5-Lutidine
4-Chloro-2-ethoxycarbonyl-3,5-Lutidine (1 equivalent) was dissolved in methanol (4 volumes). The solution was cooled in an ice bath and while stirring sodium borohydride (1-4 eq.) was added in portions. The mixture was stirred and heated to reflux (80-85ℑC.). At the end of the reaction, the solvent was evaporated, water (2 volumes) was added and the product was extracted with toluene (2×4 volumes). The combined organic layers were stirred in an ice bath and HCl gas (1.2 eq.) was bubbled in solution. The 4-Chloro-2-hydroxymethyl-3,5-Lutidine hydrochloride salt was filtered, washed with toluene and dried at 50ℑ C. at high vacuum. The product was obtained as a white solid in 85% yield.

reactant | 4-Chloro-2-ethoxycarbonyl-3,5-Lutidine | 1 equivalent | ClC1=C(C(=NC=C1C)C(=O)OCC)C | C10H12ClNO2
reactant | sodium borohydride | 1-4 eq. | [BH4-].[Na+]
reactant | HCl | 1.2 eq. | Cl | ClH
solvent | methanol | CO | CH4O
product | 4-Chloro-2-hydroxymethyl-3,5-Lutidine | 85% yield | ClC1=C(C(=NC=C1C)CO)C | C8H10ClNO
